US08426408B2
N,N-dimethyl-2-(4-nitro-1H-pyrazol-1-yl)acetamide
A suspension of 4-nitro-1H-pyrazole (0.4 g, 3.54 mmol), 2-chloro-N,N-dimethylacetamide (0.546 ml, 5.31 mmol) and potassium carbonate (0.733 g, 5.31 mmol) in 18 ml acetone was refluxed for 6 hours. The cooled suspension was filtered with acetone washes and the concentrated residue was flash chromatographed (50 mm, 3% methanol in CH2Cl2) to afford the title compound.

reactant | 4-nitro-1H-pyrazole | 3.54 mmol, 0.4 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 2-chloro-N,N-dimethylacetamide | 5.31 mmol, 0.546 ml | ClCC(=O)N(C)C | C4H8ClNO
reactant | potassium carbonate | 5.31 mmol, 0.733 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 18 ml | CC(=O)C | C3H6O
product | N,N-dimethyl-2-(4-nitro-1H-pyrazol-1-yl)acetamide | CN(C(CN1N=CC(=C1)[N+](=O)[O-])=O)C | C7H10N4O3
